US20010014691A1
3-((3S)-3-Pyrrolidinyloxy)pyridine Dihydrochloride
Concentrated HCl (2 mL) was added drop-wise to 3-((3S)-3-pyrrolidinyloxy)pyridine (240 mg, 1.462 mmol), and the resulting solution was concentrated by rotary evaporation. Ethanol was added to the residue and removed by rotary evaporation to dry the product. The procedure was repeated several times until a solid was obtained. Ethanol (1 mL) was added, and the resulting solution was treated with hot 2-propanol producing a precipitate. The solution was allowed to cool to ambient temperature and was further cooled at 5° C. for 48 h. The solids were filtered and dried under vacuum at 40° C. for 16 h to afford 215 mg (62.0%) of a hygroscopic, light-brown, granular solid, mp 145-148° C., [α]20.5D+26.67° (c 1.0, MeOH). The compound exhibits a Ki of 230 nM.

reactant | HCl | 2 mL | Cl | ClH
reactant | 3-((3S)-3-pyrrolidinyloxy)pyridine | 1.462 mmol, 240 mg | N1C[C@H](CC1)OC=1C=NC=CC1 | C9H12N2O
reactant | Ethanol | 1 mL | C(C)O | C2H6O
reactant | 2-propanol | CC(C)O | C3H8O
solvent | MeOH | CO | CH4O
product | 3-((3S)-3-Pyrrolidinyloxy)pyridine Dihydrochloride | Cl.Cl.N1C[C@H](CC1)OC=1C=NC=CC1 | InChI=1S/C9H12N2O.2ClH/c1-2-8(6-10-4-1)12-9-3-5-11-7-9;;/h1-2,4,6,9,11H,3,5,7H2;2*1H/t9-;;/m0../s1
